US07842685B2
To a solution of 2-(4-bromo-3-fluorophenyl)-1,3-dioxane (3.12 g, 11.9 mmol) in 40 mL THF at −78° C. under argon was added butyllithium, 2.5 M solution in hexanes (5.26 mL, 13.1 mmol) slowly dropwise. The resulting solution was allowed to stir 1 h at −78° C., at which point a solution at ambient temp of 2,4-dichloro-5-isothiocyanatopyridine (2.45 g, 11.9 mmol) in 10 mL THF was added slowly via cannula. The dark red reaction mixture was allowed to stir 15 min, and was then removed from the bath and quenched by slow addition of sat'd aq. NH4Cl. The reaction mixture was diluted with 40 mL MTBE, and the organic layer washed with water, brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting material was treated with sodium carbonate (1.90 g, 17.9 mmol) and 10 mL DMF. The reaction was heated under nitrogen to 80° C. An additional 5 mL DMF was added to give a stirrable slurry. After 30 min additional, the reaction mixture was cooled slightly and treated with 100 mL water. After 10 min stirring, the mixture was filtered, rinsing with water and MeOH. The solid was collected and dried in vacuo overnight to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-chlorothiazolo[4,5-c]pyridine as a tan solid. MS (ESI) m/z: calculated: 350.0; Observed: 351.0 (M++1).

reactant | 2-(4-bromo-3-fluorophenyl)-1,3-dioxane | 11.9 mmol, 3.12 g | BrC1=C(C=C(C=C1)C1OCCCO1)F | C10H10BrFO2
reactant | butyllithium | C(CCC)[Li]
reactant | 2,4-dichloro-5-isothiocyanatopyridine | 11.9 mmol, 2.45 g | ClC1=NC=C(C(=C1)Cl)N=C=S | C6H2Cl2N2S
reactant | sodium carbonate | 17.9 mmol, 1.90 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-chlorothiazolo[4,5-c]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(C=NC(=C2)Cl)N1)F | C16H12ClFN2O2S
